US07405300B2
1-(pyridin-3-yl)-1H-indole is reacted with N-chlorosuccinimide as described in Example 12 to give 1-(pyridin-3-yl)-1,3-dihydroindol-2-one (59% yield) as a light brown solid.

reactant | 1-(pyridin-3-yl)-1H-indole | N1=CC(=CC=C1)N1C=CC2=CC=CC=C12 | C13H10N2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 1-(pyridin-3-yl)-1,3-dihydroindol-2-one | 59% yield | N1=CC(=CC=C1)N1C(CC2=CC=CC=C12)=O | C13H10N2O
